US07417169B2
Trifluoromethanesulfonic anhydride (2.24 mL) was added to an ice-cooled mixture of methyl 4-hydroxy-2-methoxybenzoate (2.02 g) and pyridine (0.135 mL) in methylene chloride (15 mL) with stirring. The mixture was stirred at room temperature for 30 minutes, and poured into a mixture of hydrochloric acid and ethyl acetate. The resulting mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to afford methyl 2-methoxy-4-trifluoromethanesulfonyloxybenzoate (3.49 g).

reactant | Trifluoromethanesulfonic anhydride | 2.24 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | methyl 4-hydroxy-2-methoxybenzoate | 2.02 g | OC1=CC(=C(C(=O)OC)C=C1)OC | C9H10O4
reactant | pyridine | 0.135 mL | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 2-methoxy-4-trifluoromethanesulfonyloxybenzoate | 3.49 g | COC1=C(C(=O)OC)C=CC(=C1)OS(=O)(=O)C(F)(F)F | C10H9F3O6S
